US08937092B2
To a stirred solution of tert-butyl 2-chloro-4-(1-oxo-1-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methylamino)propan-2-yl)benzylcarbamate (132 mg, 0.234 mmol) in dichloromethane (4 mL), cooled to 0° C., were added trifluoroacetic acid (2 ml). The resulting reaction mixture was stirred for 1 h at 0° C. and 1 hour at room temperature, then basified to pH 8-9 with aq. NaHCO3. The mixture was filtered using celite pad. The filtrate dissolved in dichloromethane and extracted with NaHCO3. The organic layer was dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography. 2-(4-(aminomethyl)-3-chlorophenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide (90 mg) was obtained as 83% yield.

reactant | tert-butyl 2-chloro-4-(1-oxo-1-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methylamino)propan-2-yl)benzylcarbamate | 0.234 mmol, 132 mg | ClC1=C(CNC(OC(C)(C)C)=O)C=CC(=C1)C(C(NCC=1C(=NC(=CC1)C(F)(F)F)C=1C=C(C=CC1)C)=O)C | C29H31ClF3N3O3
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 2-(4-(aminomethyl)-3-chlorophenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide | 90 mg, 83% yield | NCC1=C(C=C(C=C1)C(C(=O)NCC=1C(=NC(=CC1)C(F)(F)F)C=1C=C(C=CC1)C)C)Cl | C24H23ClF3N3O
